US06184225B2
4-Chloro-6,7-dimethoxyquinazoline (200 mg, 0.89 mmol), (prepared as described for the starting material in Example 1), was added to a solution of 3-hydroxybenzenethiol (168 mg, 1.3 mmol) and N,N-diisopropylethylamine (233 μl, 1.3 mmol) in DMF (5 ml). After heating at 40° C. for 10 minutes, the reaction mixture was allowed to cool, diluted with water, acidified to pH3 and the mixture extracted with ethyl acetate. The organic extract was washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was recrystallised from a mixture of ethanol and ether to give 6,7-dimethoxy-4-(3-hydroxyphenylthio)quinazoline (259 mg, 93%) as a white solid.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 0.89 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-hydroxybenzenethiol | 1.3 mmol, 168 mg | OC=1C=C(C=CC1)S | C6H6OS
reactant | N,N-diisopropylethylamine | 1.3 mmol, 233 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(3-hydroxyphenylthio)quinazoline | 259 mg, 93% | COC=1C=C2C(=NC=NC2=CC1OC)SC1=CC(=CC=C1)O | C16H14N2O3S
